* COPYRIGHT OF MOTOROLA, INC.
* 
* Version 1.1.0a

.SUBCKT BFS17 100 200 300 

LCL 100 199 2.8E-10 

LBL 200 201 3.2E-10 

LBB 201 299 8.4E-10 

LEL 300 301 3.2E-10 

LEB 301 399 8.4E-10 

CCB 201 199 6E-14 

CCE 199 301 2.4E-13 

CBE 201 301 1.2E-13 

X1 199 299 399 XBFS17 

.SUBCKT XBFS17 1 2 3 

CBPAD 1 2 5E-14 

CEPAD 1 3 5E-14 

Q1 1 2 3 DBFS17 


********************


.MODEL DBFS17 NPN 

+ IS = 3.157E-16 

+ BF = 102 

+ NF = 0.9953 

+ VAF = 28 

+ IKF = 0.12 

+ ISE = 4.184E-15 

+ NE = 1.623 

+ BR = 46 

+ NR = 0.9952 

+ VAR = 9 

+ IKR = 0.022 

+ ISC = 1.004E-15 

+ NC = 1.108 

+ RB = 4 

+ IRB = 8E-05 

+ RBM = 4 

+ RE = 0.55 

+ RC = 2 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 9.45E-13 

+ VJE = 0.676 

+ MJE = 0.2361 

+ CJC = 1.1E-12 

+ VJC = 0.5166 

+ MJC = 0.2761 

+ XCJC = 0.4 

+ TF = 6.7E-11 

+ XTF = 150 

+ VTF = 0.6 

+ ITF = 0.75 

+ PTF = 21 

+ TR = 1E-09 

+ FC = 0.96 


.ENDS

.ENDS

********************



* Version 1.1.0a

.SUBCKT MMBR571 100 200 300 

LCL 100 199 2.8E-10 

LBL 200 201 3.2E-10 

LBB 201 299 8.4E-10 

LEL 300 301 3.2E-10 

LEB 301 399 8.4E-10 

CCB 201 199 6E-14 

CCE 199 301 2.4E-13 

CBE 201 301 1.2E-13 

X1 199 299 399 XMBR571 

.SUBCKT XMBR571 1 2 3 

CBPAD 2 1 7E-14 

CEPAD 1 3 7E-14 

Q1 1 2 3 DMBR571 

.MODEL DMBR571 NPN 

+ IS = 2.8E-15 

+ BF = 185 

+ NF = 1.005 

+ VAF = 22 

+ IKF = 10 

+ ISE = 2.093E-14 

+ NE = 1.641 

+ BR = 14 

+ NR = 1.005 

+ VAR = 2.2 

+ IKR = 0.25 

+ ISC = 1.196E-15 

+ NC = 1.1 

+ RB = 5 

+ IRB = 8E-05 

+ RBM = 5 

+ RE = 0.3 

+ RC = 1 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 3E-12 

+ VJE = 0.92 

+ MJE = 0.44 

+ CJC = 1.8E-12 

+ VJC = 0.641 

+ MJC = 0.406 

+ XCJC = 0.15 

+ TF = 1.25E-11 

+ XTF = 500 

+ VTF = 1 

+ ITF = 2 

+ PTF = 55 

+ TR = 1E-09 

+ FC = 0.95 

.ENDS

.ENDS

********************



* Version 1.1.0a

.SUBCKT MMBR901 100 200 300 

LCL 100 199 2.8E-10 

LBL 200 201 3.2E-10 

LBB 201 299 8.4E-10 

LEL 300 301 3.2E-10 

LEB 301 399 8.4E-10 

CCB 201 199 6E-14 

CCE 199 301 2.4E-13 

CBE 201 301 1.2E-13 

X1 199 299 399 XMBR901 

.SUBCKT XMBR901 1 2 3 

CBPAD 1 2 2.4E-13 

CEPAD 1 3 2.4E-13 

Q1 1 2 3 DMBR901 

.MODEL DMBR901 NPN 

+ IS = 3.698E-16 

+ BF = 100 

+ NF = 1.003 

+ VAF = 46 

+ IKF = 0.7 

+ ISE = 8.812E-15 

+ NE = 1.573 

+ BR = 125.2 

+ NR = 0.9945 

+ VAR = 5 

+ IKR = 1 

+ ISC = 6.423E-15 

+ NC = 1.133 

+ RB = 3 

+ IRB = 8E-05 

+ RBM = 3 

+ RE = 0.4 

+ RC = 32 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 1.6E-12 

+ VJE = 0.826 

+ MJE = 0.348 

+ CJC = 5.5E-13 

+ VJC = 0.604 

+ MJC = 0.315 

+ XCJC = 0.5 

+ TF = 1.6E-11 

+ XTF = 500 

+ VTF = 1.6 

+ ITF = 0.3 

+ PTF = 85 

+ TR = 1E-09 

+ FC = 0.95 

.ENDS

.ENDS

********************



* Version 1.1.0a

* The Gummel-Poon BJT model does not model the

* distributed resistance and capacitance of the base-

* collector region. Normally this is not a significant

* problem because most low-power RF parts have low

* overall base-region resistance (8-12 ohms). However,

* the MMBR931 device has a much higher overall

* resistance in the base, and so requires an improved

* distribution of base-collector resistance and

* capacitance.

* This improved distribution is accomplished by adding

* a 3-stage ladder of resistors and diodes between the

* external base and collector nodes of the Gummel-Poon

* model (see the XMBR931 sub-circuit). When the

* transitor is in the forward-active mode (B-E

* junction forward biased, B-C junction reverse

* biased), the diodes model the voltage-dependent

* capacitance of the B-C junction.

* If the B-C junction becomes forward-biased by a

* voltage greater than FC * VJC, the diodes are turned

* off, relative to the B-C junction of the BJT. This

* is accomplished by setting the saturation current

* (IS) of the diodes to 1/1000th that of the

* transistor. This model's accuracy when the B-C

* junction is forward-biased into diode turn-off

* region is unknown, and likely not usable.

********************

.SUBCKT MMBR931 100 200 300 

LCL 100 199 2.8E-10 

LBL 200 201 3.2E-10 

LBB 201 299 8.4E-10 

LEL 300 301 3.2E-10 

LEB 301 399 8.4E-10 

CCB 201 199 6E-14 

CCE 199 301 2.4E-13 

CBE 201 301 1.2E-13 

X1 199 299 399 XMBR931

.SUBCKT XMBR931 1 2 3 

RB1 2 4 6 

RB2 4 5 6 

RB3 5 6 40 

DBC1 2 1 A931BCEX 

DBC2 4 1 A931BCEX

DBC3 5 1 A931BCEX

CBPAD 2 1 1.2E-13 

CEPAD 3 1 1.2E-13 

Q1 1 6 3 DMBR931 

.MODEL A931BCEX D 

+ IS = 2.865E-20 

+ TT = 2E-11 

+ CJO = 2.6E-14 

+ VJ = 0.25 

+ M = 0.18 

********************

.MODEL DMBR931 NPN 

+ IS = 2.865E-17 

+ BF = 100.5 

+ NF = 1 

+ VAF = 35 

+ IKF = 0.013 

+ ISE = 1.83E-14 

+ NE = 2.235 

+ BR = 3.934 

+ NR = 0.9992 

+ VAR = 4 

+ IKR = 0.001817 

+ ISC = 3.749E-17 

+ NC = 1.1 

+ RB = 1 

+ IRB = 1.992E-05 

+ RBM = 1 

+ RE = 1.3 

+ RC = 40 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 1E-13 

+ VJE = 0.7 

+ MJE = 0.27 

+ CJC = 2.6E-14 

+ VJC = 0.25 

+ MJC = 0.18 

+ XCJC = 0.5 

+ TF = 2E-11 

+ XTF = 29 

+ VTF = 1.2 

+ ITF = 0.028 

+ PTF = 60 

+ TR = 1E-09 

+ FC = 0.5 

.ENDS

.ENDS

********************



* Version 1.1.0a

.SUBCKT MMBR941 100 200 300 

LCL 100 199 2.8E-10 

LBL 200 201 3.2E-10 

LBB 201 299 8.4E-10 

LEL 300 301 3.2E-10 

LEB 301 399 8.4E-10 

CCB 201 199 6E-14 

CCE 199 301 2.4E-13 

CBE 201 301 1.2E-13 

X1 199 299 399 XMBR941

.SUBCKT XMBR941 1 2 3 

CBPAD 1 2 6.5E-14 

CEPAD 1 3 6.5E-14 

Q1 1 2 3 DMBR941 

.MODEL DMBR941 NPN 

+ IS = 8.148E-16 

+ BF = 144 

+ NF = 1.002 

+ VAF = 20 

+ IKF = 0.7 

+ ISE = 1.902E-13 

+ NE = 2.077 

+ BR = 43.92 

+ NR = 1 

+ VAR = 2.5 

+ IKR = 0.00825 

+ ISC = 8.972E-16 

+ NC = 1.381 

+ RB = 9 

+ IRB = 8E-05 

+ RBM = 9 

+ RE = 0.48 

+ RC = 6 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 8.85E-13 

+ VJE = 0.956 

+ MJE = 0.489 

+ CJC = 3.5E-13 

+ VJC = 0.57 

+ MJC = 0.2418 

+ XCJC = 0.3 

+ TF = 1.2E-11 

+ XTF = 500 

+ VTF = 5 

+ ITF = 1.3 

+ PTF = 70 

+ TR = 1E-09 

+ FC = 0.9 

.ENDS

.ENDS

********************



* Version 1.1.0a

.SUBCKT MMBR951 100 200 300 

LCL 100 199 2.8E-10 

LBL 200 201 3.2E-10 

LBB 201 299 8.4E-10 

LEL 300 301 3.2E-10 

LEB 301 399 8.4E-10 

CCB 201 199 6E-14 

CCE 199 301 2.4E-13 

CBE 201 301 1.2E-13 

X1 199 299 399 XMBR951

.SUBCKT XMBR951 1 2 3 

CBPAD 2 1 9E-14 

CEPAD 1 3 9E-14 

Q1 1 2 3 DMBR951 

.MODEL DMBR951 NPN 

+ IS = 8.633E-16 

+ BF = 105 

+ NF = 0.9909 

+ VAF = 26 

+ IKF = 100 

+ ISE = 1E-15 

+ NE = 1.356 

+ BR = 60 

+ NR = 0.9983 

+ VAR = 5 

+ IKR = 0.022 

+ ISC = 1.673E-16 

+ NC = 1.076 

+ RB = 5 

+ IRB = 8E-05 

+ RBM = 5 

+ RE = 0.33 

+ RC = 10 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 2.9E-12 

+ VJE = 1.061 

+ MJE = 0.5089 

+ CJC = 7.3E-13 

+ VJC = 0.25 

+ MJC = 0.27 

+ XCJC = 0.5 

+ TF = 9E-12 

+ XTF = 500 

+ VTF = 3 

+ ITF = 1.1 

+ PTF = 85 

+ TR = 1E-09 

+ FC = 0.5 

.ENDS

.ENDS
********************



* Version 1.0.0a

.SUBCKT MRF5711 100 200 300 

LCL1 100 101 1.7E-10 

LCL2 101 102 1.7E-10 

LCL3 102 199 1.7E-10 

LBL1 200 201 1.3E-10 

LBL2 201 202 1.3E-10 

LBL3 202 203 1.3E-10 

LBB 203 299 6E-10 

LEL11 350 351 1.3E-10 

LEL12 351 352 1.3E-10 

LEL13 352 353 1.3E-10 

LEB1 353 399 6E-10 

LEL21 340 341 1.3E-10 

LEL22 341 342 1.3E-10 

LEL23 342 343 1.3E-10 

LEB2 343 399 6E-10 

CBE11 201 351 1E-14 

CBE12 202 352 1E-14 

CBE21 203 343 3E-14 

CCB 203 199 1E-14 

CCE21 101 341 1.2E-13 

CCE22 102 342 1.2E-13 

CCE11 199 353 1.8E-13 

RX1 350 300 0.001 

RX2 340 300 0.001 

X1 199 299 399 XMRF5711 

.SUBCKT XMRF5711 1 2 3 

CBPAD 2 1 5E-14 

CEPAD 1 3 5E-14 

Q1 1 2 3 DMRF5711 

 MODEL DMRF5711 NPN 

+ IS = 1.463E-15 

+ BF = 142 

+ NF = 0.9938 

+ VAF = 30 

+ IKF = 0.7 

+ ISE = 8.968E-14 

+ NE = 1.998 

+ BR = 18.91 

+ NR = 0.9936 

+ VAR = 2.5 

+ IKR = 0.08659 

+ ISC = 9.806E-16 

+ NC = 1.1 

+ RB = 2.4 

+ IRB = 0.0001 

+ RBM = 2.5 

+ RE = 0.26 

+ RC = 1 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 2.9E-12 

+ VJE = 0.96 

+ MJE = 0.447 

+ CJC = 1.8E-12 

+ VJC = 0.665 

+ MJC = 0.409 

+ XCJC = 0.4 

+ TF = 1.35E-11 

+ XTF = 500 

+ VTF = 0.8 

+ ITF = 1.3 

+ PTF = 50 

+ TR = 1E-09 

+ FC = 0.6 

.ENDS

.ENDS
********************



* Version 1.0.0a

.SUBCKT MRF5812 100 200 300 

LC1 100 10 1.8E-10 

LB1 200 14 1.9E-10 

LE1 300 18 1.33E-10 

CB1 14 18 2.6E-13 

CC1 10 18 2.6E-13 

CC2 9 17 2.6E-13 

CC3 8 16 2.6E-13 

LB4 12 11 1.9E-10 

LBB 11 5 7.5E-10 

LEB 6 15 3.75E-10 

LE4 15 16 1.33E-10 

LC2 10 9 1.8E-10 

LC3 9 8 1.8E-10 

LB2 14 13 1.9E-10 

LB3 13 12 1.9E-10 

CB2 13 17 2.6E-13 

CB3 12 16 2.6E-13 

LE2 18 17 1.33E-10 

LE3 17 16 1.33E-10 

X1 8 5 6 XMRF5812 

.SUBCKT XMRF5812 1 2 3 

CBPAD 2 1 2.2E-13 

CEPAD 1 3 2.2E-13 

Q1 1 2 3 DMRF5812 

.MODEL DMRF5812 NPN 

+ IS = 6.363E-15 

+ BF = 131.4 

+ NF = 1.004 

+ VAF = 50 

+ IKF = 6 

+ ISE = 5.709E-14 

+ NE = 1.808 

+ BR = 18 

+ NR = 1 

+ VAR = 3.3 

+ IKR = 5 

+ ISC = 2.98E-15 

+ NC = 1.121 

+ RB = 2.3 

+ IRB = 1E-05 

+ RBM = 2.3 

+ RE = 0.9 

+ RC = 2 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 8.5E-12 

+ VJE = 0.971 

+ MJE = 0.4941 

+ CJC = 3.7E-12 

+ VJC = 0.7 

+ MJC = 0.5 

+ XCJC = 0.5 

+ TF = 1.7E-11 

+ XTF = 40 

+ VTF = 1 

+ ITF = 2 

+ PTF = 35 

+ TR = 1E-09 

+ FC = 0.95 

.ENDS

.ENDS
********************



* Version 1.0.0a

.SUBCKT MRF9011 100 200 300 

LCL1 100 101 1.8E-10 

LCL2 101 102 1.8E-10 

LCL3 102 199 1.8E-10 

LBL1 200 201 1.3E-10 

LBL2 201 202 1.3E-10 

LBL3 202 203 1.3E-10 

LBB 203 299 6.4E-10 

LEL11 350 351 1.3E-10 

LEL12 351 352 1.3E-10 

LEL13 352 353 1.3E-10 

LEB1 353 399 6.4E-10 

LEL21 340 341 1.3E-10 

LEL22 341 342 1.3E-10 

LEL23 342 343 1.3E-10 

LEB2 343 399 6.4E-10 

CBE11 201 351 1E-14 

CBE12 202 352 1E-14 

CBE21 203 343 3E-14 

CCB 203 199 1E-14 

CCE21 101 341 1.2E-13 

CCE22 102 342 1.2E-13 

CCE11 199 353 1.9E-13 

RX1 350 300 0.001 

RX2 340 300 0.001 

X1 199 299 399 XMRF9011 

.SUBCKT XMRF9011 1 2 3 

CBPAD 2 1 8E-14 

CEPAD 1 3 8E-14 

Q1 1 2 3 DMRF9011 

.MODEL DMRF9011 NPN 

+ IS = 2.834E-16 

+ BF = 87 

+ NF = 0.985 

+ VAF = 44 

+ IKF = 10 

+ ISE = 3.645E-14 

+ NE = 1.989 

+ BR = 6 

+ NR = 0.9903 

+ VAR = 7 

+ IKR = 0.018 

+ ISC = 4.705E-16 

+ NC = 1.148 

+ RB = 5 

+ IRB = 8E-05 

+ RBM = 5 

+ RE = 0.65 

+ RC = 12 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 1.7E-12 

+ VJE = 0.94 

+ MJE = 0.4 

+ CJC = 9.3E-13 

+ VJC = 0.545 

+ MJC = 0.3 

+ XCJC = 0.05 

+ TF = 2.3E-11 

+ XTF = 400 

+ VTF = 0.5 

+ ITF = 0.5 

+ PTF = 40 

+ TR = 1E-09 

+ FC = 0.6 

.ENDS

.ENDS
********************



* Version 1.0.0a

.SUBCKT MRF9411 100 200 300 

LCL1 100 101 1.8E-10 

LCL2 101 102 1.8E-10 

LCL3 102 199 1.8E-10 

LBL1 200 201 1.3E-10 

LBL2 201 202 1.3E-10 

LBL3 202 203 1.3E-10 

LBB 203 299 6.5E-10 

LEL11 350 351 1.3E-10 

LEL12 351 352 1.3E-10 

LEL13 352 353 1.3E-10 

LEB1 353 399 6.5E-10 

LEL21 340 341 1.3E-10 

LEL22 341 342 1.3E-10 

LEL23 342 343 1.3E-10 

LEB2 343 399 6.5E-10 

CBE11 201 351 1E-14 

CBE12 202 352 1E-14 

CBE21 203 343 3E-14 

CCB 203 199 1E-14 

CCE21 101 341 1.2E-13 

CCE22 102 342 1.2E-13 

CCE11 199 353 1.8E-13 

RX1 350 300 0.001 

RX2 340 300 0.001 

X1 199 299 399 XMRF9411 

.SUBCKT XMRF9411 1 2 3 

CBPAD 2 1 4E-14 

CEPAD 1 3 4E-14 

Q1 1 2 3 DMRF9411 

.MODEL DMRF9411 NPN 

+ IS = 4.558E-16 

+ BF = 136 

+ NF = 0.9979 

+ VAF = 21 

+ IKF = 0.7 

+ ISE = 3.087E-14 

+ NE = 2 

+ BR = 42 

+ NR = 0.993 

+ VAR = 2.9 

+ IKR = 0.016 

+ ISC = 3.411E-17 

+ NC = 1.087 

+ RB = 7 

+ IRB = 8E-05 

+ RBM = 8 

+ RE = 0.45 

+ RC = 8 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 8.6E-13 

+ VJE = 0.94 

+ MJE = 0.42 

+ CJC = 4.3E-13 

+ VJC = 0.35 

+ MJC = 0.21 

+ XCJC = 0.44 

+ TF = 1.3E-11 

+ XTF = 400 

+ VTF = 6 

+ ITF = 1.5 

+ PTF = 47 

+ TR = 1E-09 

+ FC = 0.98 

.ENDS

.ENDS

********************



* Version 1.1.1b

.SUBCKT MRF947 100 200 300 

LCL 100 199 3.4E-10 

LBL 200 201 2.9E-10 

LBB 201 299 7.8E-10 

LEL 300 301 2.9E-10 

LEB 301 399 7.8E-10 

CCB 201 199 4E-14 

CCE 199 301 2.2E-13 

CBE 201 301 1.2E-13 

X1 199 299 399 XMRF947 

.SUBCKT XMRF947 1 2 3 

CBPAD 2 1 6.5E-14 

CEPAD 1 3 13.0E-14 

Q1 1 2 3 DMRF947 

.MODEL DMRF947 NPN 

+ IS = 4.536E-16 

+ BF = 130 

+ NF = 1.003 

+ VAF = 24 

+ IKF = 0.8 

+ ISE = 7.238E-13 

+ NE = 2.577 

+ BR = 21 

+ NR = 1 

+ VAR = 3.3 

+ IKR = 0.022 

+ ISC = 1.71E-15 

+ NC = 1.202 

+ RB = 8 

+ IRB = 8E-05 

+ RBM = 8 

+ RE = 0.65 

+ RC = 12 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 9.2E-13 

+ VJE = 0.93 

+ MJE = 0.355 

+ CJC = 4E-13 

+ VJC = 0.357 

+ MJC = 0.237 

+ XCJC = 0.5 

+ TF = 1.2E-11 

+ XTF = 500 

+ VTF = 4 

+ ITF = 1.2 

+ PTF = 60 

+ TR = 1E-09 

+ FC = 0.95 

.ENDS

.ENDS
********************



* Version 1.0.0a

.SUBCKT MRF9511 100 200 300 

LCL1 100 101 1.8E-10 

LCL2 101 102 1.8E-10 

LCL3 102 199 1.8E-10 

LBL1 200 201 1.3E-10 

LBL2 201 202 1.3E-10 

LBL3 202 203 1.3E-10 

LBB 203 299 6.6E-10 

LEL11 350 351 1.3E-10 

LEL12 351 352 1.3E-10 

LEL13 352 353 1.3E-10 

LEB1 353 399 6.6E-10 

LEL21 340 341 1.3E-10 

LEL22 341 342 1.3E-10 

LEL23 342 343 1.3E-10 

LEB2 343 399 6.6E-10 

CBE11 201 351 1E-14 

CBE12 202 352 1E-14 

CBE21 203 343 3E-14 

CCB 203 199 1E-14 

CCE21 101 341 1.2E-13 

CCE22 102 342 1.2E-13 

CCE11 199 353 1.8E-13 

RX1 350 300 0.001 

RX2 340 300 0.001 

X1 199 299 399 XMRF9511 

.SUBCKT XMRF9511 1 2 3 

CBPAD 2 1 6E-14 

CEPAD 1 3 6E-14 

Q1 1 2 3 DMRF9511 

.MODEL DMRF9511 NPN 

+ IS = 1.168E-15 

+ BF = 140 

+ NF = 1.001 

+ VAF = 20 

+ IKF = 1 

+ ISE = 2.165E-15 

+ NE = 1.371 

+ BR = 45 

+ NR = 0.9924 

+ VAR = 3.3 

+ IKR = 0.022 

+ ISC = 2.294E-16 

+ NC = 1.133 

+ RB = 3.5 

+ IRB = 8E-05 

+ RBM = 3.5 

+ RE = 0.55 

+ RC = 1.8 

+ XTB = 0 

+ EG = 1.11 

+ XTI = 3 

+ CJE = 1.8E-12 

+ VJE = 1.1 

+ MJE = 0.5576 

+ CJC = 8.5E-13 

+ VJC = 0.41 

+ MJC = 0.3 

+ XCJC = 0.5 

+ TF = 1.3E-11 

+ XTF = 400 

+ VTF = 0.6 

+ ITF = 1.5 

+ PTF = 48 

+ TR = 1E-09 

+ FC = 0.9 

.ENDS

.ENDS

********************

